US07700641B2
Synthesis of 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
To a suspension of 1′-(diphenylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one (6.00 g, 12.3 mmol) in methanol (100 mL) and acetic acid (1.00 mL) was added 10% palladium on carbon (0.65 g, 0.62 mmol), and the mixture was hydrogenated at ambient temperature under 130 psi of hydrogen for 5 days. The reaction mixture was filtered over celite and the filtrate was concentrated in vacuo to dryness. The residue was subjected to flash chromatography eluting with 30% ethyl acetate in hexane to give the title compound (2.95 g, 75%) as a white solid: mp 180-182° C.; 1H NMR (300 MHz, CDCl3) δ 9.19 (S, 1H), 7.29-6.92 (m., 4H), 6.86-6.64 (m, 3H), 5.03 (d, 1H), 4.75 (d, 1H); 13C NMR(75 MHz, CDCl3) δ 179.9, 161.9, 150.6, 132.3, 129.4, 127.4, 125.6, 124.3, 124.2, 123.8, 120.5, 114.1, 110.7, 104.3, 80.8, 58.2; MS (ES+) m/z 322 (M+1).

reactant | 1′-(diphenylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 12.3 mmol, 6.00 g | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC1=C2C=CC(=C1)OC(F)(F)F)=O)C1=CC=CC=C1 | C29H20F3NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
solvent | acetic acid | 1.00 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.62 mmol, 0.65 g | [Pd] | Pd
product | 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 2.95 g, 75% | FC(OC1=CC2=C(C=C1)C1(C(NC3=CC=CC=C13)=O)CO2)(F)F | C16H10F3NO3
